US04528024
To a suspension of 2-(2-methoxyethylthio)benzenamine (91.5 g, 0.500 mol) in a mixture of concentrated hydrochloric acid (175 ml) and glacial acetic acid (80 ml) was added a solution of sodium nitrite (39.3 g, 0.550 mol) in water (75 ml) at -5° to 0°. The solution was stirred at 0° for 1/2 hour and then poured, in several portions, into a mixture of cupric chloride dihydrate (10.0 g, 0.059 mol) and liquid sulfur dioxide (77.5 ml, 1.76 mol), in glacial acetic acid (500 ml) at 0°. The resulting solution was stirred at 0° for one hour and then allowed to warm to room temperature. After four hours, ice-water (2000 ml) was added and the resulting oil was extracted into 1-chlorobutane (4×500 ml). The organic extracts were washed with water (5×500 ml) and saturated sodium bicarbonate (until neutral), dried (MgSO4), filtered and reduced in volume to 1000 ml. The sulfonyl chloride solution was cooled to 0° under nitrogen and treated with liquid anhydrous ammonia (50 ml, 2.0 mol). After 1 hour at 0°, the mixture was allowed to warm to room temperature and stirred for 21/2 hours. The reaction mixture was filtered and the resulting solid washed with 1-chlorobutane and water. 2-(2-methoxyethylthio)benzenesulfonamide (84 g, 68%) was obtained as a light-orange solid: m.p. 127°-130°.

reactant | 2-(2-methoxyethylthio)benzenamine | 0.500 mol, 91.5 g | COCCSC1=C(C=CC=C1)N | C9H13NOS
reactant | hydrochloric acid | 175 ml | Cl | ClH
reactant | sodium nitrite | 0.550 mol, 39.3 g | N(=O)[O-].[Na+]
reactant | sulfur dioxide | 1.76 mol, 77.5 ml | S(=O)=O | O2S
reactant | ammonia | 2.0 mol, 50 ml | N | H3N
solvent | water | 75 ml | O | H2O
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 2-(2-methoxyethylthio)benzenesulfonamide | 84 g, 68% | COCCSC1=C(C=CC=C1)S(=O)(=O)N | C9H13NO3S2
